US07550471B2
Preparation of 5-methyl-6-cyclopentyl-7-chloro[1,2,4]triazolo-[1,5-a]pyrimidine
A mixture of 5-methyl-6-cyclopentyl-7-hydroxy[1,2,4]triazolo[1,5-a]pyrimidine (17 g, Ex. 2) and POCl3 (50 ml) was heated under reflux for 8 hours. During this operation, some of the POCl3 was distilled off. The residue was poured into a mixture of dichloromethane and water. The organic phase was separated off and dried. Removal of the solvent gave 11 g of the title compound of m.p. 87° C.

reactant | 5-methyl-6-cyclopentyl-7-hydroxy[1,2,4]triazolo[1,5-a]pyrimidine | 17 g | CC1=NC=2N(C(=C1C1CCCC1)O)N=CN2 | C11H14N4O
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-methyl-6-cyclopentyl-7-chloro[1,2,4]triazolo-[1,5-a]pyrimidine | 11 g | CC1=NC=2N(C(=C1C1CCCC1)Cl)N=CN2 | C11H13ClN4
